US05177089
3-amino-1-(2-(3,4-dimethoxyphenyl)ethyl)pyrrolidine
1.03 g of N-(1-(2-(3,4-dimethoxyphenyl)ethyl)pyrrolidin-3-yl)phthalimide was dissolved in 50 ml of ethanol, to which 2 ml of hydrazine monohydrate was added and refluxed under heating for 14 hours. The solvent was distilled off and an aqueous diluted solution of sodium hydroxide was added to the residue and extracted with chloroform. After drying with anhydrous magnesium sulfate, the solvent was distilled off, to obtain 0.68 g of the above-captioned compound (yield: 100%).

reactant | N-(1-(2-(3,4-dimethoxyphenyl)ethyl)pyrrolidin-3-yl)phthalimide | 1.03 g | COC=1C=C(C=CC1OC)CCN1CC(CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C22H24N2O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrazine monohydrate | 2 ml | O.NN
product | 3-amino-1-(2-(3,4-dimethoxyphenyl)ethyl)pyrrolidine | 0.68 g, yield: 100% | NC1CN(CC1)CCC1=CC(=C(C=C1)OC)OC | C14H22N2O2
